US07635684B2
4-[(4-{3-[2-(Carbamoyl)ethylamino]propoxy}-2-methylphenyl)-methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
To a solution of 4-[(4-{3-[N-benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.96 g) in tetrahydrofuran (5 mL) was added 10% palladium-carbon powder (0.1 g), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (0.87 g).

reactant | 4-[(4-{3-[N-benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.96 g | C(C1=CC=CC=C1)N(CCC(N)=O)CCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C53H78N4O12
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 4-[(4-{3-[2-(Carbamoyl)ethylamino]propoxy}-2-methylphenyl)-methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.87 g | C(N)(=O)CCNCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C46H72N4O12
